US09062032B2
To a mixture of 350 mg of 2-[3-(morpholin-4-ylmethyl)phenyl]-5,6,7,8-tetrahydro-4H-[1]benzothieno[2,3-d][1,3]oxazin-4-one, 150 mg of 2-N,2-N-diethylpyrimidine-2,5-diamine and 5.0 mL of THF was added dropwise 1.0 mL of lithium hexamethyldisilazide (1.0 M in THF) under ice cooling, followed by stirring for 1 hour at the same temperature. A saturated aqueous ammonium chloride solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (methanol/chloroform). Ethyl acetate and 0.5 mL of 4.0 M hydrogen chloride/ethyl acetate solution were sequentially added to the residue, followed by stirring for 30 minutes at room temperature. The insoluble material was collected by filtration, thereby obtaining 174 mg of N-[2-(diethylamino)pyrimidin-5-yl]-2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide dihydrochloride.

reactant | 2-[3-(morpholin-4-ylmethyl)phenyl]-5,6,7,8-tetrahydro-4H-[1]benzothieno[2,3-d][1,3]oxazin-4-one | 350 mg | N1(CCOCC1)CC=1C=C(C=CC1)C=1OC(C2=C(N1)SC1=C2CCCC1)=O | C21H22N2O3S
reactant | 2-N,2-N-diethylpyrimidine-2,5-diamine | 150 mg | C(C)N(C1=NC=C(C=N1)N)CC | C8H14N4
reactant | lithium hexamethyldisilazide | 1.0 M, 1.0 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | N-[2-(diethylamino)pyrimidin-5-yl]-2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide dihydrochloride | 174 mg | Cl.Cl.C(C)N(C1=NC=C(C=N1)NC(=O)C1=C(SC2=C1CCCC2)NC(C2=CC(=CC=C2)CN2CCOCC2)=O)CC | InChI=1S/C29H36N6O3S.2ClH/c1-3-35(4-2)29-30-17-22(18-31-29)32-27(37)25-23-10-5-6-11-24(23)39-28(25)33-26(36)21-9-7-8-20(16-21)19-34-12-14-38-15-13-34;;/h7-9,16-18H,3-6,10-15,19H2,1-2H3,(H,32,37)(H,33,36);2*1H
